US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 1-benzyl-3-(3-chloropropyl)-5-cyano-2,4(1H,3H)-pyrimidinedione gave 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-cyano-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 142°-143° C.; Anal.: Calcd. for C27H28F3N5O3.(HCl)1.2.(H2O)0.5 : C, 57.50; H, 5.18; N, 12.42%; Found: C, 55.93; H, 5.22; N, 11.94%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 1-benzyl-3-(3-chloropropyl)-5-cyano-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C#N)=O)CCCCl)=O | C15H14ClN3O2
product | 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-cyano-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C(C(=C1)C#N)=O)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O | InChI=1S/C27H28F3N5O3.ClH/c28-27(29,30)20-38-24-10-5-4-9-23(24)33-15-13-32(14-16-33)11-6-12-35-25(36)22(17-31)19-34(26(35)37)18-21-7-2-1-3-8-21;/h1-5,7-10,19H,6,11-16,18,20H2;1H
